US07407976B2
2-(4-Methoxy-benzyl)-thiazole-4-carboxylic acid [1-(3,4-dimethoxy-phenyl)-cyclopentylmethyl]-amide:
2-(4-Methoxy-benzyl)-thiazole-4-carboxylic acid (101 mg, 0.405 mmol) and C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine (96.5 mg, 0.410 mmol) were dissolved in acetonitrile (2 mL) containing triethylamine (84.1 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (171 mg, 0.450 mmol) was added and the solution was allowed to stir for 16 hours. The reaction mixture was evaporated to dryness and purified by column chromatography on silica gel using a gradient of 5-30% ethyl acetate in hexanes. The pure fractions were combined and evaporated to dryness to yield a yellow solid (84.0 mg, 0.180 mmol, 43.9%). ESI-MS m/z calc. 466.6, found 467.2 (M+1)+. Retention time of 8.32 minutes. 1H NMR (400 MHz, CD3CN) δ1.68-2.07 (m, 8H), 3.50 (d, J=6.3 Hz, 2H), 3.82 (s, 9H), 4.20 (s, 2H), 6.83-7.29 (m, 8H), 7.87 (s, 1H).

reactant | 2-(4-Methoxy-benzyl)-thiazole-4-carboxylic acid | 0.405 mmol, 101 mg | COC1=CC=C(CC=2SC=C(N2)C(=O)O)C=C1 | C12H11NO3S
reactant | C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine | 0.410 mmol, 96.5 mg | COC=1C=C(C=CC1OC)C1(CCCC1)CN | C14H21NO2
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.450 mmol, 171 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-(4-Methoxy-benzyl)-thiazole-4-carboxylic acid [1-(3,4-dimethoxy-phenyl)-cyclopentylmethyl]-amide | 0.180 mmol, 84.0 mg, 43.9% | COC=1C=C(C=CC1OC)C1(CCCC1)CNC(=O)C=1N=C(SC1)CC1=CC=C(C=C1)OC | C26H30N2O4S
